US05864039
5-((3R)-3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)pentylamine (2.00 g) as starting compound was reacted and treated in the same manner as in Example 34 using n-butyl isocyanate (0.79 ml) and 4-amino-5-chloro-2-methoxybenzoic acid (0.54 g) to give 4-amino-N-((3R)-1-(5-(3-n-butylureido)pentyl)pyrrolidin-3-ylmethyl)-5-chloro-2-methoxybenzamide.

reactant | 5-((3R)-3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)pentylamine | 2.00 g | C(C)(C)(C)OC(=O)NC[C@@H]1CN(CC1)CCCCCN | C15H31N3O2
reactant | n-butyl isocyanate | 0.79 ml | C(CCC)N=C=O | C5H9NO
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.54 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 4-amino-N-((3R)-1-(5-(3-n-butylureido)pentyl)pyrrolidin-3-ylmethyl)-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)NC[C@@H]2CN(CC2)CCCCCNC(=O)NCCCC)C=C1Cl)OC | C23H38ClN5O3
